US04203982
A solution of diphenylmethyl 7β-amino-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylate (9.89 g) and 3,5-di-t-butyl-4-hydroxybenzaldehyde (5.62 g) in a mixture of benzene (160 ml) and dichloromethane (40 ml) is refluxed for 1 hour in the presence of a molecular sieve to give a solution of diphenylmethyl 7β-(3,5-di-t-butyl-4-hydroxy-benzylidene)amino-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylate.

reactant | diphenylmethyl 7β-amino-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylate | 9.89 g | N[C@H]1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C23H22N6O3S2
reactant | 3,5-di-t-butyl-4-hydroxybenzaldehyde | 5.62 g | C(C)(C)(C)C=1C=C(C=O)C=C(C1O)C(C)(C)C | C15H22O2
solvent | benzene | 160 ml | C1=CC=CC=C1 | C6H6
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | diphenylmethyl 7β-(3,5-di-t-butyl-4-hydroxy-benzylidene)amino-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylate | C(C)(C)(C)C=1C=C(C=N[C@H]2[C@@H]3N(C(=C(CS3)CSC3=NN=NN3C)C(=O)OC(C3=CC=CC=C3)C3=CC=CC=C3)C2=O)C=C(C1O)C(C)(C)C | C38H42N6O4S2
